US04472433
A mixture of 2-oxo-3-methylthio-7-(α-naphthoxy)indoline (5.4 g) and Raney nickel (12 ml) in dioxane (70 ml) was stirred at 50° C. for 1.5 hrs. The reaction mixture was allowed to stand and the supernatant was separated by decantation. To the residue was added dioxane and the supernatant was separated again. The dioxane solutions were combined and filtered. The filtrate was evaporated in vacuo, and the oily residue (5.2 g) was crystallized by treating with ethanol to give 2-oxo-7-(α-naphtoxy)indoline (3.15 g). mp 158°-160° C.

reactant | 2-oxo-3-methylthio-7-(α-naphthoxy)indoline | 5.4 g | O=C1NC2=C(C=CC=C2C1SC)OC1=CC=CC2=CC=CC=C12 | C19H15NO2S
catalyst | Raney nickel | 12 ml | [Ni] | Ni
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 2-oxo-7-(α-naphtoxy)indoline | 3.15 g | O=C1NC2=C(C=CC=C2C1)OC1=CC=CC2=CC=CC=C12 | C18H13NO2
